US04956175
Preparation of 5-hydroxy N-(2-mercaptoethyl) valeramide
A mixture, stirred under an inert atmosphere, of 5 g of cysteamine and 6.05 cm3 of δ-valerolactone is brought to a temperature of about 60°-70° C. for 15 hours. The disappearance of the δ-valerolactone is followed by VPC. The reaction mixture is then poured into 100 cm3 of water and 10 g of acid resin, "Dowex 50" and 3 g of zinc powder are added. The resulting mixture is stirred for 4 hours at ambient temperature and then left overnight. The next day the mixture is filtered and the water is evaporated under reduced pressure.

reactant | cysteamine | 5 g | NCCS | C2H7NS
reactant | δ-valerolactone | 6.05 cm3 | C1(CCCCO1)=O | C5H8O2
catalyst | zinc | 3 g | [Zn] | Zn
solvent | water | 100 cm3 | O | H2O
product | 5-hydroxy N-(2-mercaptoethyl) valeramide | OCCCCC(=O)NCCS | C7H15NO2S
